US08536179B2
To a 5 ml microwave vial was added, 6-cyano-3-methyl-1-(1-methylethyl)-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]-1H-indole-4-carboxamide (100 mg, 0.247 mmol), KOH (41.6 mg, 0.742 mmol) was ground and added followed by Ethanol (8 mL) the reaction was microwaved at 145° C. for 22 hr. The reaction was poured onto acidic Ice water (20 mL) and was stirred for 20 min. EtOAc was added and the mix was stirred an additional 10 min. The layers were separated and the majority of the product was in the EtOAc which was evaporated. The residue was dissolved in MeOH (1 mL) and material was crashed out with ice and was filtered to give product 3-methyl-1-(1-methylethyl)-4-({[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]amino}carbonyl)-1H-indole-6-carboxylic acid (70 mg, 0.160 mmol, 64.9% yield) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.49 (br. s., 1H) 8.18 (s, 1H) 8.10 (s, 1H) 7.53 (d, J=7.58 Hz, 2H) 5.90 (s, 1H) 4.76-4.90 (m, 1H) 4.36 (d, J=4.80 Hz, 2H) 2.55 (br. s., 1H) 2.18 (s, 3H) 2.13 (s, 3H) 1.52-1.61 (m, 2H) 1.44 (d, J=6.57 Hz, 6H) 0.94 (t, J=7.33 Hz, 3H) MS (ES) [M+H]+ 423.8

reactant | 6-cyano-3-methyl-1-(1-methylethyl)-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]-1H-indole-4-carboxamide | 0.247 mmol, 100 mg | C(#N)C=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)NCC=1C(NC(=CC1CCC)C)=O | C24H28N4O2
reactant | KOH | 0.742 mmol, 41.6 mg | [OH-].[K+]
reactant | Ethanol | 8 mL | C(C)O | C2H6O
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 3-methyl-1-(1-methylethyl)-4-({[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]amino}carbonyl)-1H-indole-6-carboxylic acid | 0.160 mmol, 70 mg, 64.9% yield | CC1=CN(C2=CC(=CC(=C12)C(=O)NCC=1C(NC(=CC1CCC)C)=O)C(=O)O)C(C)C | C24H29N3O4
